US08003649B2
Preparation of 6-[3-(3-fluorophenoxy)azetidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine
A stirred partial solution of 6-[3-(methanesulfonyloxy)azetidin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (169 mg, 0.5 mmol), 3-fluorophenol (112 mg, 1.5 mmol) and potassium carbonate (207 mg, 1.5 mmol) in DMF (3 mL) was heated at 100° C. for 24 hours. The reaction mixture was filtered and the product was isolated by preparative HPLC (Waters XBridge Prep C18 OBD column, 5μ silica, 19 mm diameter, 100 mm length), using decreasingly polar mixtures of water (containing 1% ammonia) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to give 6-[3-(3-fluorophenoxy)azetidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine (58 mg, 33%) as a solid.

reactant | 6-[3-(methanesulfonyloxy)azetidin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 0.5 mmol, 169 mg | CS(=O)(=O)OC1CN(C1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C10H10F3N5O3S
reactant | 3-fluorophenol | 1.5 mmol, 112 mg | FC=1C=C(C=CC1)O | C6H5FO
reactant | potassium carbonate | 1.5 mmol, 207 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | MeCN | CC#N | C2H3N
product | 6-[3-(3-fluorophenoxy)azetidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | FC=1C=C(OC2CN(C2)C=2C=CC=3N(N2)C(=NN3)C(F)(F)F)C=CC1 | C15H11F4N5O
